US07368461B2
2b. 2-Oxo-[1,4′]bipiperidinyl-1′-carboxylic acid benzyl ester
4-(5-Chloro-pentanoylamino)-piperidine-1-carboxylic acid benzyl ester (15.6 g) was added to a suspension of sodium hydride (2.12 g) in tetrahydrofuran (175 mL). After being stirred overnight, the reaction was quenched with water, then the tetrahydrofuran was removed under reduced pressure. The aqueous solution was diluted with water and extracted with methylene chloride (4×50 mL). The organic extracts were dried and evaporated to give the title compound (15 g). Rf=0.30 in ethyl acetate. MS: m/z=317 (M+H).

reactant | 4-(5-Chloro-pentanoylamino)-piperidine-1-carboxylic acid benzyl ester | 15.6 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)NC(CCCCCl)=O | C18H25ClN2O3
reactant | sodium hydride | 2.12 g | [H-].[Na+]
solvent | tetrahydrofuran | 175 mL | O1CCCC1 | C4H8O
product | 2-Oxo-[1,4′]bipiperidinyl-1′-carboxylic acid benzyl ester | 15 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)N1C(CCCC1)=O | C18H24N2O3
